US04476132
2.3 g of sodium are dissolved in 250 ml of ethanol. There are added to this solution 27.5 g of N-ethyl-5-butyryl-4-methylisatic acid anhydride suspended in 300 ml of ethanol. The mixture is refluxed for 1 hour. The solution is concentrated to dryness by evaporation and ice-water is added and acidification with 2N HCl is cautiously carried out. The mixture is then extracted with methylene chloride, dried over magnesium sulphate and concentrated by evaporation. The N-ethyl-5-butyryl-4-methylanthranilic acid ethyl ester obtained in this manner is further reacted in the following manner without being purified.

reactant | sodium | 2.3 g | [Na] | Na
reactant | N-ethyl-5-butyryl-4-methylisatic acid anhydride | 27.5 g | C(C)NC=1C(=CC(=C(C1)C)C(CCC)=O)C(=O)C(=O)OC(C(C=1C(NCC)=CC(=C(C1)C(CCC)=O)C)=O)=O | C30H36N2O7
reactant | ethanol | 250 ml | C(C)O | C2H6O
reactant | ethanol | 300 ml | C(C)O | C2H6O
product | N-ethyl-5-butyryl-4-methylanthranilic acid ethyl ester | C(C)OC(C=1C(NCC)=CC(=C(C1)C(CCC)=O)C)=O | C16H23NO3
